US06599917B1
b) 2-Benzyl-6-(3-pyrroline-1-yl)pyridine
72.3 ml of a tetrahydrofuran solution containing 1.07 mol of benzylmagnesium chloride was added dropwise into a mixture of 11.6 g of a mixture of 2-bromo-6-(3-pyrroline-1-yl)pyridine and 2-bromo-6-(pyrrolidine-1-yl)pyridine and 20 ml of tetrahydrofuran containing 1.4 g of 1,3-bis(diphenylphosphino)propanenickel(II) chloride over 10 minutes in an ice bath. After cooling at room temperature overnight, the reaction solution was poured into aqueous saturated ammonium chloride and extracted with ethyl acetate. The organic phase was washed with aqueous saturated sodium chloride and the solvent was removed. The residue was subjected to NH-silica gel (Fuji Silicia) column chromatography and eluted with hexane and then with hexane/ethyl acetate (20:1), to give 11.8 g of the title compound as a mixture with 2-benzyl-6-(pyrrolidine-1-yl)pyridine.

reactant | benzylmagnesium chloride | 1.07 mol | C(C1=CC=CC=C1)[Mg]Cl
reactant | 2-bromo-6-(3-pyrroline-1-yl)pyridine | BrC1=NC(=CC=C1)N1CC=CC1 | C9H9BrN2
reactant | 2-bromo-6-(pyrrolidine-1-yl)pyridine | BrC1=NC(=CC=C1)N1CCCC1 | C9H11BrN2
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | 1,3-bis(diphenylphosphino)propanenickel(II) chloride | CC(C)P(C1=CC=CC=C1)C2=CC=CC=C2.C1=CC=C(C=C1)PC2=CC=CC=C2.[Cl-].[Ni]
solvent | tetrahydrofuran | 20 ml, 1.4 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 72.3 ml | O1CCCC1 | C4H8O
product | 2-Benzyl-6-(3-pyrroline-1-yl)pyridine | 11.8 g | C(C1=CC=CC=C1)C1=NC(=CC=C1)N1CC=CC1 | C16H16N2
